### PR TITLE
[Merged by Bors] - refactor(Data/SetLike): generalise `IsConcreteLE`

### PR DESCRIPTION
**Pull request by artie2000**
* Generalise `IsConcreteLE` typeclass from `SetLike` to `Membership`
* Generalise the API where possible
* Rename theorems to match generalisation

AI usage disclosure: Codex was used to fix long line lints. All changes were manually reviewed.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by JovanGerb** [comment]
Some declarations like `SetLike.le_def` and `Preorder.ofSetLike` now don't anymore involve `SetLike`, so the names seem wrong.

**Comment by artie2000** [comment]
@JovanGerb I have follow-up PR #42702 for this reason. I thought splitting them would make the diff cleaner. I've updated the description.

**Comment by JovanGerb** [comment]
I think it makes more sense to do these changes in a single PR

**Comment by artie2000** [comment]
I'm worried about the diff being too messy for review, but I can try.

File: Mathlib/Data/SetLike/Basic.lean [hunk 1]
```diff
@@ -211,61 +211,95 @@ lemma exists_not_mem_of_ne_top [LE A] [OrderTop A] (s : A) (hs : s ≠ ⊤)
 
 end SetLike
 
-/-- A class to indicate that the canonical injection between `A` and `Set B` is order-preserving.
-
-An instance of this class is automatically available on any partial order defined as
-`PartialOrder.ofSetLike`.
+/--
+A class to indicate that the order on a type corresponds to set inclusion.
+An instance of this class is automatically available on any order defined via `LE.ofMembership`.
```
Comment (SnirBroshi) [inline Mathlib/Data/SetLike/Basic.lean:217]: The empty newline makes the docs nicer I think
```suggestion
A class to indicate that the order on a type corresponds to set inclusion.

An instance of this class is automatically available on any order defined via `LE.ofMembership`.
```

File: Mathlib/Data/SetLike/Basic.lean [hunk 2]
```diff
@@ -211,61 +211,95 @@ lemma exists_not_mem_of_ne_top [LE A] [OrderTop A] (s : A) (hs : s ≠ ⊤)
...
 
-An order defined as `.ofSetLike` will automatically make available an instance
-of `IsConcreteLE`.
+/-- The order induced from a `Membership` instance by inclusion.
+An order defined this way automatically makes available an instance of `IsConcreteLE`.
 -/
-@[reducible] def LE.ofSetLike : LE A where
-  le := fun H K => ∀ ⦃x⦄, x ∈ H → x ∈ K
+@[reducible] def LE.ofMembership [Membership B A] : LE A where
+  le := fun H K ↦ ∀ ⦃x⦄, x ∈ H → x ∈ K
```
Comment (SnirBroshi) [inline Mathlib/Data/SetLike/Basic.lean]:
```suggestion
  le H K := ∀ ⦃x⦄, x ∈ H → x ∈ K
```

File: Mathlib/Data/SetLike/Basic.lean [hunk 3]
```diff
@@ -211,61 +211,95 @@ lemma exists_not_mem_of_ne_top [LE A] [OrderTop A] (s : A) (hs : s ≠ ⊤)
...
-/-- The partial order induced from a `SetLike` instance by inclusion.
+instance [Membership B A] : letI := LE.ofMembership A B; IsConcreteLE A B :=
+  letI := LE.ofMembership A B; { le_iff := .rfl }
+
+/-- The preorder induced from a `Membership` instance by inclusion.
+A preorder defined this way automatically makes available an instance of `IsConcreteLE`.
+-/
+@[reducible] def Preorder.ofMembership [Membership B A] : Preorder A where
+  __ := LE.ofMembership A B
+  lt s t := letI := LE.ofMembership A B; s ≤ t ∧ ¬t ≤ s
```
Comment (SnirBroshi) [inline Mathlib/Data/SetLike/Basic.lean]:
```suggestion
  lt s t := s ≤ t ∧ ¬t ≤ s
```

File: Mathlib/Data/SetLike/Basic.lean [hunk 4]
```diff
@@ -211,61 +211,95 @@ lemma exists_not_mem_of_ne_top [LE A] [OrderTop A] (s : A) (hs : s ≠ ⊤)
...
+variable {A B : Type*} [SetLike A B]
+
+section LE
+
+variable [LE A] [IsConcreteLE A B] {p q : A}
+
+@[simp, norm_cast, gcongr] lemma coe_subset_coe : (p : Set B) ⊆ q ↔ p ≤ q :=
+  (IsConcreteLE.le_iff (A := A)).symm
 
 end LE
```
Comment (SnirBroshi) [inline Mathlib/Data/SetLike/Basic.lean:306]: Why did this move down to a separate `section LE`?

File: Mathlib/Data/SetLike/Basic.lean [hunk 5]
```diff
@@ -211,61 +211,95 @@ lemma exists_not_mem_of_ne_top [LE A] [OrderTop A] (s : A) (hs : s ≠ ⊤)
...
 
 theorem not_le_iff_exists : ¬p ≤ q ↔ ∃ x ∈ p, x ∉ q := by
-  simpa [← coe_subset_coe] using! Set.not_subset
+  simp [le_def]
+
+end LE
+
+section PartialOrder
+
+variable [PartialOrder A] [IsConcreteLE A B] {p q : A}
```
Comment (SnirBroshi) [inline Mathlib/Data/SetLike/Basic.lean]: I think the two theorems here hold in a `Preorder`, even with the same proofs
```suggestion
variable [Preorder A] [IsConcreteLE A B] {p q : A}
```

File: Mathlib/Data/SetLike/Basic.lean (hunk 4 above)
Comment (artie2000) [reply Mathlib/Data/SetLike/Basic.lean:306]: Look one level up - it *stayed* in the namespace `SetLike`. The lemmas split into ones that generalise to `Membership` and ones that don't (because they mention `SetLike.coe`). The first group move to namespace `IsConcreteLE`

File: Mathlib/Data/SetLike/Basic.lean (hunk 5 above)
Comment (artie2000) [reply Mathlib/Data/SetLike/Basic.lean]: good catch

File: Mathlib/Algebra/Group/Subgroup/Defs.lean [hunk 6]
```diff
@@ -180,8 +180,9 @@ namespace SubgroupClass
 @[to_additive]
 theorem subset_union [LE S] [IsConcreteLE S G] {H K L : S} :
     (H : Set G) ⊆ K ∪ L ↔ H ≤ K ∨ H ≤ L := by
-  refine ⟨fun h ↦ ?_, fun h x xH ↦ h.imp (mem_of_le_of_mem · xH) (mem_of_le_of_mem · xH)⟩
-  rw [or_iff_not_imp_left, SetLike.not_le_iff_exists, ← SetLike.coe_subset_coe]
+  refine ⟨fun h ↦ ?_, fun h x xH ↦ h.imp
```
Comment (JovanGerb) [inline Mathlib/Algebra/Group/Subgroup/Defs.lean:183]: Why was `mem_of_le_of_mem` removed in this proof?

File: Mathlib/Data/SetLike/Basic.lean [hunk 7]
```diff
@@ -282,18 +319,12 @@ section PartialOrder
 
 variable [PartialOrder A] [IsConcreteLE A B] {p q : A}
 
-@[simp, norm_cast, gcongr] lemma coe_ssubset_coe {S T : A} : (S : Set B) ⊂ T ↔ S < T := by
+@[simp, norm_cast, gcongr] lemma coe_ssubset_coe : (p : Set B) ⊂ q ↔ p < q := by
   rw [ssubset_iff_subset_ne, lt_iff_le_and_ne, coe_subset_coe, SetLike.coe_ne_coe]
 
 @[gcongr, mono]
 theorem coe_strictMono : StrictMono (SetLike.coe : A → Set B) := fun _ _ => coe_ssubset_coe.mpr
```
Comment (JovanGerb) [inline Mathlib/Data/SetLike/Basic.lean:325]: This seems to be pre-existing, but we only need one of these two `gcongr` attributes. Similarly above.

File: Mathlib/Data/SetLike/Basic.lean [hunk 8]
```diff
@@ -211,61 +211,98 @@ lemma exists_not_mem_of_ne_top [LE A] [OrderTop A] (s : A) (hs : s ≠ ⊤)
...
+
+/-- The preorder induced from a `Membership` instance by inclusion.
 
-A partial order defined as `.ofSetLike` will automatically make available an instance
-of `IsConcreteLE`.
+A preorder defined this way automatically makes available an instance of `IsConcreteLE`.
+-/
+@[reducible] def Preorder.ofMembership [Membership B A] : Preorder A where
+  __ := LE.ofMembership A B
+  lt s t := s ≤ t ∧ ¬t ≤ s
```
Comment (JovanGerb) [inline Mathlib/Data/SetLike/Basic.lean]:
```suggestion
```
This line can be removed all together, thanks to the default value :)

**Review by JovanGerb — COMMENTED** [review]
Thanks, this looks good to me. There are just some more linter warnings left over.

File: Mathlib/Data/SetLike/Basic.lean (hunk 7 above)
Comment (artie2000) [reply Mathlib/Data/SetLike/Basic.lean:325]: I think this is out of scope

File: Mathlib/Algebra/Group/Subgroup/Defs.lean (hunk 6 above)
Comment (artie2000) [reply Mathlib/Algebra/Group/Subgroup/Defs.lean:183]: This application of `mem_of_le_of_mem` (ie `le_iff`) was abusing the defeq between `x ∈ p` and `x ∈ SetLike.coe p`. There is a `Membership A (Set A)` instance, so type inference of `p` breaks when the `SetLike` parameter of `IsConcreteLE` is generalised to `Membership`. The type-correct lemma is `coe_subset_coe` (see its proof).

File: Mathlib/Data/SetLike/Basic.lean (hunk 7 above)
Comment (SnirBroshi) [reply Mathlib/Data/SetLike/Basic.lean:325]: IIRC `gcongr` is preferable to `mono`

Comment (artie2000) [reply Mathlib/Data/SetLike/Basic.lean:325]: Could we leave this to a follow-up PR? I am concerned about scope creep and I want to keep moving forward on this.

Comment (JovanGerb) [reply Mathlib/Data/SetLike/Basic.lean:325]: Yes, let's leave further changes to a follow-up PR.

The discussion about `mono`, and whether to remove it is another one :). I would be happy to see `mono` go, but I recall someone said they'd like to keep it, so...

File: Mathlib/RingTheory/Ideal/GoingUp.lean [hunk 9]
```diff
@@ -236,8 +236,8 @@ section IsIntegral
 variable {A : Type*} [CommRing A] [Algebra R A] [Algebra.IsIntegral R A]
 
 theorem IsIntegral.under_lt_under {I J : Ideal A} [I.IsPrime] (I_lt_J : I < J) :
-    I.under R < J.under R :=
-  let ⟨I_le_J, x, hxJ, hxI⟩ := SetLike.lt_iff_le_and_exists.mp I_lt_J
+    I.comap (algebraMap R A) < J.comap (algebraMap R A) :=
```
Comment (JovanGerb) [inline Mathlib/RingTheory/Ideal/GoingUp.lean:239]: How come the statement of this theorem changed?

Comment (artie2000) [reply Mathlib/RingTheory/Ideal/GoingUp.lean:239]: at best a merge issue, at worst careless use of agentic AI
I'll review the whole diff
thanks for catching

Comment (artie2000) [reply Mathlib/RingTheory/Ideal/GoingUp.lean]: OK I've fixed this and checked the whole diff - everything else seems fine
Sorry about that

**Comment by artie2000** [comment]
Keen to make a decision on this PR quickly to avoid rot - it's a big diff (as requested in review)

**Comment by JovanGerb** [comment]
Thanks!

maintainer merge

**Comment by j-loreaux** [comment]
Thanks!

bors merge
